US08202858B2
1-Cyclopropylmethyl-piperidine-4-carboxylic acid 3-fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzylamide
HBTU (227 mg, 0.6 mmol) was added to a solution of 1-cyclopropylmethyl-piperidine-4-carboxylic acid from Example E15a (99 mg, 0.45 mmol) in DMF (5 ml) and DIEA (to pH9). The mixture was stirred at room temperature for 1 h. (4-Aminomethyl-2-fluoro-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride from Example E90.2 (116 mg, 0.3 mmol) was added and the mixture was stirred at room temperature for 18 h. Solvents were removed in vacuo and azeotroped with toluene. The residue was redissolved in EtOAc, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 1% 35% ammonia:19% methanol:80% dichloromethane) to give a white solid identified as the title compound (71.5 mg, 46%).

reactant | HBTU | 0.6 mmol, 227 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-cyclopropylmethyl-piperidine-4-carboxylic acid | C1(CC1)CN1CCC(CC1)C(=O)O | C10H17NO2
reactant | (4-Aminomethyl-2-fluoro-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride | Cl.NCC1=CC(=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DIEA | pH9 | CCN(C(C)C)C(C)C | C8H19N
product | 1-Cyclopropylmethyl-piperidine-4-carboxylic acid 3-fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzylamide | 71.5 mg, 46% | FC=1C=C(CNC(=O)C2CCN(CC2)CC2CC2)C=CC1C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | C29H33FN6O2
